US05466692
2-Hydroxymethyl-4-methyl-8-[2'-(1 -tert-butyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one
A mixture of 8-[(4-bromophenyl)methyl]-2-hydroxymethyl-6-methyl-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one (0.95 g, 2.62 mmol), 2-[(1-tert-butyl)-1H-tetrazol-5-yl]phenylboronic acid (0.72 g, 2.90 mmol) (prepared according to J. W. Ellingboe, et al. U.S. Pat. No. 5,149,699), 2M Na2CO3 (5.5 mL), tetrakis(triphenylphosphine)palladium(0) (100 tug, 0.086 mmol), EtOH (3 mL)and toluene (16 mL) was heated under reflux for 20 h. The mixture was diluted with CH2Cl2 and the layers were separated. The organic phase was dried (MgSO4) and concentrated to give an orange oil. Purification by flash chromatography (4% MeOH/CH2Cl2) gave 1.20 g (90%) of product as a colorless foam.

reactant | 8-[(4-bromophenyl)methyl]-2-hydroxymethyl-6-methyl-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one | 2.62 mmol, 0.95 g | BrC1=CC=C(C=C1)CN1C(C(CC2=C1N=C(N=C2)CO)C)=O | C16H16BrN3O2
reactant | 2-[(1-tert-butyl)-1H-tetrazol-5-yl]phenylboronic acid | 2.90 mmol, 0.72 g | C(C)(C)(C)N1N=NN=C1C1=C(C=CC=C1)B(O)O | C11H15BN4O2
reactant | Na2CO3 | 2M, 5.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 3 mL | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.086 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxymethyl-4-methyl-8-[2'-(1 -tert-butyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one | 1.20 g, 90% | OCC=1N=C(C2=C(N1)N(C(CC2)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C)(C)C)C | C27H29N7O2
